US04731478
In 50 ml of dioxane was dissolved 2.5 g of 5-{1-[2-(2-methoxyphenoxy)ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide and after adding thereto 1 g of concentrated hydroiodic acid, the mixture was stirred overnight. After the reaction was over, the solvent was distilled off under reduced pressure and the residue was washed thrice with 30 ml of water and then thrice with 200 ml of ether and crystallized by the addition of ethyl acetate. The crystals were recovered by filtration, washed with water, and dried to provide 1.7 g of 5-{1-iodo-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methylbenzenesulfonamide hydroiodide.

reactant | 5-{1-[2-(2-methoxyphenoxy)ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide | 2.5 g | COC1=C(OCCN2C(C2)C=2C=CC(=C(C2)S(=O)(=O)N)C)C=CC=C1 | C18H22N2O4S
reactant | hydroiodic acid | 1 g | I | HI
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-{1-iodo-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methylbenzenesulfonamide hydroiodide | 1.7 g | I.IC(CNCCOC1=C(C=CC=C1)OC)C=1C=CC(=C(C1)S(=O)(=O)N)C | InChI=1S/C18H23IN2O4S.HI/c1-13-7-8-14(11-18(13)26(20,22)23)15(19)12-21-9-10-25-17-6-4-3-5-16(17)24-2;/h3-8,11,15,21H,9-10,12H2,1-2H3,(H2,20,22,23);1H
